US07968534B2
N-[2-(2,6-Difluorobenzyl)-6-methoxyphenyl]-3,4-dimethoxybenzene-sulfonamide
3.8 g of 2-(2,6-difluorobenzyl)-6-methoxyaniline are dissolved in 36 ml of tetrahydrofuran and 1.2 ml of pyridine, and then 4.06 g of 3,4-dimethoxybenzene-sulfonyl chloride are then added. After 18 hours at room temperature, the reaction medium is taken up in ethyl acetate and then hydrolyzed, the organic phase is dried over anhydrous sodium sulfate and concentrated. The residue is solidified in a toluene/ethyl acetate mixture (9/1) (v/v) in order to obtain 5 g of expected product.

reactant | 2-(2,6-difluorobenzyl)-6-methoxyaniline | 3.8 g | FC1=C(CC2=C(N)C(=CC=C2)OC)C(=CC=C1)F | C14H13F2NO
reactant | 3,4-dimethoxybenzene-sulfonyl chloride | 4.06 g | COC=1C=C(C=CC1OC)S(=O)(=O)Cl | C8H9ClO4S
solvent | tetrahydrofuran | 36 ml | O1CCCC1 | C4H8O
solvent | pyridine | 1.2 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[2-(2,6-Difluorobenzyl)-6-methoxyphenyl]-3,4-dimethoxybenzene-sulfonamide | 5 g | FC1=C(CC2=C(C(=CC=C2)OC)NS(=O)(=O)C2=CC(=C(C=C2)OC)OC)C(=CC=C1)F | C22H21F2NO5S
